US05256680
A mixture of 0.87 g (0 03 mole) of 4-(3-amino-1,2,4-oxadiazol-5-yl)-2,6-bis(1,1-dimethylethyl)phenol and 25 ml (22.3 g; 0.15 mole) of anhydrous triethyl orthoformate is stirred at reflux (under a nitrogen atmosphere) for 24 hours. The cooled mixture is evaporated, and the residue is distributed between 75 ml of dichloromethane and 100 ml of saturated aqueous sodium bicarbonate solution. The aqueous layer is extracted several times with fresh dichloromethane, and the combined organic layers are washed with brine. The organic layer is dried (anhydrous sodium sulfate) and evaporated. Recrystallization of the residue from aqueous acetonitrite yields 0.70 g (67% yield) of ethyl N-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,2,4-oxadiazol-3-y]methanimidoate, mp 159°-161° C.

reactant | 4-(3-amino-1,2,4-oxadiazol-5-yl)-2,6-bis(1,1-dimethylethyl)phenol | 0.87 g | NC1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H23N3O2
reactant | triethyl orthoformate | 0.15 mole, 25 ml, 22.3 g | C(OCC)(OCC)OCC | C7H16O3
product | ethyl N-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,2,4-oxadiazol-3-y]methanimidoate | 0.70 g, 67% yield | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NC(=NO1)N=COCC | C19H27N3O3
